US08686048B2
Intermediate 85: 3-propyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole
The title compound (500 mg) was prepared as a colourless viscous liquid by using the procedure followed for intermediate 64 from propyl magnesium bromide generated from propyl bromide (16.2 ml, 176.96 mmol) and magnesium (4.3 g, 176.96 mmol) in ether (50 ml), 5-bromoisatin (5 g, 22.12 mmol), THF (20 ml), 2M borane-dimethyl sulphide in THF (10 ml, 19.65 mmol), bis(pinacolato)diboron (600 mg, 2.3 mmol), potassium acetate (600 mg, 2.3 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloro palladium(II).CH2Cl2 (44 mg, 0.03 mmol) and dioxane (10 ml).

reactant | propyl magnesium bromide | C(CC)[Mg]Br
reactant | propyl bromide | 176.96 mmol, 16.2 ml | C(CC)Br | C3H7Br
reactant | magnesium | 176.96 mmol, 4.3 g | [Mg] | Mg
reactant | 5-bromoisatin | 22.12 mmol, 5 g | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | borane dimethyl sulphide | 2M | B.CSC
reactant | bis(pinacolato)diboron | 2.3 mmol, 600 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.3 mmol, 600 mg | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.03 mmol, 44 mg | C(Cl)Cl | CH2Cl2
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 19.65 mmol, 10 ml | C1CCOC1 | C4H8O
product | 3-propyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 500 mg | C(CC)C1=CNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C17H24BNO2
